US07700641B2
D. Synthesis of 1-(diphenylmethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-5-methyl-1,3-dihydro-2H-indol-2-one
To a solution of 1-(diphenylmethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-5-methyl-1,3-dihydro-2H-indol-2-one (1.61 g, 3.60 mmol) and para-formaldehyde (0.43 g, 14.6 mmol) in dichloromethane (60.0 mL) was added diisopropylamine (7.20 mmol). After stirring at ambient temperature for 3 h, the reaction was quenched with saturated aqueous ammonium chloride (60.0 mL). The organic layer was separated and washed with water (3×100 mL), dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography eluting with ethyl acetate/hexanes (20-60%) to afford the title compound (1.07 g, 63%) as a colorless solid: 1H NMR (300 MHz, CDCl3) δ 10.09 (br, 1H), 7.37-7.16 (m, 12H), 6.99 (s, 1H), 6.87 (d, 1H), 6.62 (s, 1H) 6.54 (s, 1H), 6.37 (d, 1H), 5.87 (d, 2H), 4.45 (ABq, 2H), 2.33 (s, 3H); MS (ES+) m/z 480.4 (M+1).

reactant | 1-(diphenylmethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-5-methyl-1,3-dihydro-2H-indol-2-one | 3.60 mmol, 1.61 g | C1(=CC=CC=C1)C(N1C(C(C2=CC(=CC=C12)C)C1=CC2=C(OCO2)C=C1O)=O)C1=CC=CC=C1 | C29H23NO4
reactant | para-formaldehyde | 14.6 mmol, 0.43 g | C=O | CH2O
reactant | diisopropylamine | 7.20 mmol | C(C)(C)NC(C)C | C6H15N
solvent | dichloromethane | 60.0 mL | ClCCl | CH2Cl2
product | 1-(diphenylmethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-5-methyl-1,3-dihydro-2H-indol-2-one | 1.07 g, 63% | C1(=CC=CC=C1)C(N1C(C(C2=CC(=CC=C12)C)(CO)C1=CC2=C(OCO2)C=C1O)=O)C1=CC=CC=C1 | C30H25NO5
